US07091232B2
3-Ethoxy-cyclopent-2-enone (Intermediate NINE1) (commercially available from Aldrich) (10.0 g, 77.6 mmol) in carbon tetrachloride (15 mL) at 0° C. was treated with NBS (15.3 g, ˜85 mmol) added portion-wise over 30 m. After 1 h at 0° C. the mixture was partitioned between CH2Cl2 and saturated NaHCO3. The aqueous layer was extracted with CH2Cl2. The pooled organic layers were washed with H2O (2×) and dried over MgSO4. The mixture was filtered and evaporated to dryness. The solid was recrystallized from pentane:ether to give 13.3 g of 2-bromo-3-ethoxy-cyclopent-2-enone (Intermediate NINE2).

reactant | 3-Ethoxy-cyclopent-2-enone | C(C)OC1=CC(CC1)=O | C7H10O2
reactant | NBS | ˜85 mmol, 15.3 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-3-ethoxy-cyclopent-2-enone | 13.3 g | BrC=1C(CCC1OCC)=O | C7H9BrO2
